US04064347
2,7-bis[5-(4-benzylpiperidino)valeryl]fluorene
Following the procedure of Example 7, 20.2g (0.05 mole) of 2,7-bis(5-chlorovaleryl)fluorene, prepared in Example 2, and 70.0g (0.4 mole) of 4-benzylpiperidine were reacted to give the desired product which was recrystallized three times from chloroform-acetone. M.P. 147°-149° C, λmaxEtOH 329, E1cm1% 577.

reactant | 2,7-bis(5-chlorovaleryl)fluorene | 0.05 mole, 20.2g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCCl)=O | C23H24Cl2O2
reactant | 4-benzylpiperidine | 0.4 mole, 70.0g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 2,7-bis[5-(4-benzylpiperidino)valeryl]fluorene | C(C1=CC=CC=C1)C1CCN(CC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCC(CC1)CC1=CC=CC=C1)=O | C47H56N2O2
